US05922751
5-(3-Cyclopentyloxy-4-methoxybenzal hydantoin
To a stirred solution of diethyl 5-hydantoylphosphonate (10 g, 42.3 mmol) and triethylamine (5.70 g, 56 mmol), in dry acetonitrile (100 ml) at room temperature was added a solution of 3-cyclopentyloxy-4-methoxybenzaldehyde (8 g, 36.3 mmol) in dry acetonitrile (75 ml), dropwise over 30 minutes. The resulting mixture was stirred at room temperature overnight, after which volatiles were removed in vacuo. The residue was diluted with 0.05N HCl (120 ml) and the precipitate collected by filtration. Recrystallization of this material with methylene chloride/methanol/diethyl ether afforded the title compound as a pale yellow solid (8.54 g). m.p. 220-222° C.

reactant | diethyl 5-hydantoylphosphonate | 42.3 mmol, 10 g | CCOP(=O)(C1C(=O)NC(=O)N1)OCC | C7H13N2O5P
reactant | triethylamine | 56 mmol, 5.70 g | C(C)N(CC)CC | C6H15N
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 36.3 mmol, 8 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 3-Cyclopentyloxy-4-methoxybenzal hydantoin | 8.54 g | C1(CCCC1)OC=1C=C(C=C2C(NC(N2)=O)=O)C=CC1OC | C16H18N2O4
